US03971819
A. 3-nitro-5-sulphamyl-4-(m-toluidino)-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (28 g), m-toluidine (32.2 g), and water (500 ml) was refluxed for 3 hours. After cooling and acidification with 2N hydrochloric acid, the precipitated 3-nitro-5-sulphamyl-4-(m-toluidino)-benzoic acid was collected by suction, washed with water, and recrystallized from isopropanol. After drying at 115°C in vacuo, the melting point was 256°-259°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 28 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | m-toluidine | 32.2 g | NC1=CC(=CC=C1)C | C7H9N
solvent | water | 500 ml | O | H2O
product | 3-nitro-5-sulphamyl-4-(m-toluidino)-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1NC=1C=C(C=CC1)C)S(N)(=O)=O | C14H13N3O6S
